US09260375B2
2-Isopropyl-3-[4-(2-methoxy-2-oxoethoxy)benzyl]maleic acid dimethyl ester
To a solution of 2-(4-hydroxybenzyl)-3-isopropylmaleic acid dimethyl ester (44.1 mg, 0.151 mmol) in (880 μL) were added potassium carbonate (34.7 mg, 0.251 mmol) and methyl bromoacetate (138.4 mg, 0.904 mmol) with stirring at room temperature. After stirring at room temperature for 20 h, the reaction mixture was diluted with toluene and water to separate the phases. The aqueous layer was extracted again with toluene, and the combined organic layer was concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (toluene-ethyl acetate 10:1) to give 45.2 mg of the title compound as oil (yield: 82%).

reactant | 2-(4-hydroxybenzyl)-3-isopropylmaleic acid dimethyl ester | 0.151 mmol, 44.1 mg | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)O)=O | C16H20O5
reactant | potassium carbonate | 0.251 mmol, 34.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.904 mmol, 138.4 mg | BrCC(=O)OC | C3H5BrO2
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Isopropyl-3-[4-(2-methoxy-2-oxoethoxy)benzyl]maleic acid dimethyl ester | 45.2 mg, yield: 82% | COC(\C(=C(/C(=O)OC)\CC1=CC=C(C=C1)OCC(=O)OC)\C(C)C)=O | C19H24O7
